US05219852
N-[2-(4-(2-Hydroxyethoxy)phenyl)-1-methylethyl]-2-(2-trifluoromethyl-thiazol-4-yl)morpholine (Diastereomer A)
1 g (0.0022 Mol) of N-[2-(4-carbomethoxymethoxyphenyl)-1-methylethyl]-2-(2-trifluoromethyl-thiazol-4-yl)morpholin-5-one (diastereomer A) is dissolved in 6 ml of absolute tetrahydrofuran. At room temperature 15 ml (0.015 Mol) of a one molar solution of diborane in tetrahydrofuran is added dropwise within 15-20 minutes. During this the solution heated up to about 35°-40° C. After 30 minutes the mixture is evaporated to dryness and the remaining residue is dissolved in 40 ml of methanol and 2 ml of concentrated hydrochloric acid, and the mixture is left to stand for 30 minutes. While cooling in ice, the mixture is made alkaline with ammonia and is extracted several times by shaking with methylene chloride. The organic phase is dried over sodium sulphate and the base is purified on a silica gel column using toluene/ethyl acetate=7.5:2.5 as eluant.

reactant | N-[2-(4-carbomethoxymethoxyphenyl)-1-methylethyl]-2-(2-trifluoromethyl-thiazol-4-yl)morpholin-5-one | 0.0022 Mol, 1 g | C(=O)(OC)COC1=CC=C(C=C1)CC(C)N1CC(OCC1=O)C=1N=C(SC1)C(F)(F)F | C20H21F3N2O5S
reactant | diborane | B#B | B2
solvent | tetrahydrofuran | 6 ml | O1CCCC1 | C4H8O
product | N-[2-(4-(2-Hydroxyethoxy)phenyl)-1-methylethyl]-2-(2-trifluoromethyl-thiazol-4-yl)morpholine | OCCOC1=CC=C(C=C1)CC(C)N1CC(OCC1)C=1N=C(SC1)C(F)(F)F | C19H23F3N2O3S
